US07138432B1
To a solution of 0.425 g (1 mmol) of desired {[4-(4-fluorobutoxy)-benzenesulfonyl](4-methoxy-benzyl)-amino}-acetic acid and 0.27 g (2 mmol) of HOBT in 4 ml of DMF, a solution of 0.116 g of O-(1-methoxy-1-methyl-ethyl)-hydroxylamine in 1 ml of DMF and 0.23 g of WSCD were successively added at 0–5° C. and the mixture was stirred for 1 h. After stirring for additional 2 h at r.t., the mixture is diluted with H2O and extracted with AcOEt. The combined extracts are dried over MgSO4 and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (eluent; AcOEt:n-hexane=1:1) to give 2-{[4-(4-fluorobutoxy)-benzenesulfonyl]-4-methoxy-benzyl)-amino}-N-(1-ethoxy-1-methyl ethoxy) acetamide; NMR (CDCl3): 1.35 (s, 6H), 1.83–2.0 (m, 4H), 3.29 (s, 3H), 3.70 (s, 2H), 3.78 (s, 3H), 4.08–4.11 (m, 2H), 4.32 (s, 2H), 4.47–4.49 (m, 1H), 4.60 (br s, 1H), 6.80–6.90 (m, 2H), 6.95–7.05 (m, 2H), 7.10–7.25 (m, 2H), 7.79 (d, 2H, J=9.06 Hz), 8.46 (br s, 1H).

reactant | {[4-(4-fluorobutoxy)-benzenesulfonyl](4-methoxy-benzyl)-amino}-acetic acid | 1 mmol, 0.425 g | FCCCCOC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)OC)CC(=O)O | C20H24FNO6S
reactant | HOBT | 2 mmol, 0.27 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-(1-methoxy-1-methyl-ethyl)-hydroxylamine | 0.116 g | COC(C)(C)ON | C4H11NO2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N-(1-ethoxy-1-methyl ethoxy) acetamide | C(C)OC(C)(ONC(C)=O)C | C7H15NO3
